US04649144
In dry dioxane, 2,6-dichloro-5-fluoronicotinoyl chloride, prepared in Reference Example 10-(2), was allowed to react with ethyl β-cyclopropylaminoacrylate in the presence of triethylamine to give ethyl 2-(2,6-dichloro-5-fluoronicotinoyl)-3-cyclopropylaminoacrylate, m.p. 129°-130° C.

reactant | 2,6-dichloro-5-fluoronicotinoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=N1)Cl)F | C6HCl3FNO
reactant | ethyl β-cyclopropylaminoacrylate | C1(CC1)NC=CC(=O)OCC | C8H13NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl 2-(2,6-dichloro-5-fluoronicotinoyl)-3-cyclopropylaminoacrylate | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=N1)Cl)F | C14H13Cl2FN2O3
